US07314940B2
(S)-2,6-Bis-tert-butoxycarbonylamino-hexanoic acid; (S)-35
A mixture of l-lysine (2.012 g, 13.76 mmol), di-tert-butyl dicarbonate (BOC2O; 7.21 g, 33.0 mmol) and KHCO3 (7.008 g, 70.0 mmol) in methanol (50 mL) was stirred at r.t. for 3 days. The mixture was concentrated in vacuum, acidified to pH 4 with 10% aqueous citric acid, and extracted with AcOEt (3×30 mL). Combined organic solutions were washed with brine, dried MgSO4, and concentrated to give (S)-35 (5.05 g, 106%) as a white foam. 1H NMR (400 MHz, DMSO-d6) δ 1.20-1.63 (m, 6H), 1.35 (s, 9H), 1.36 (s, 9H), 2.82-2.90 (m, 2H), 3.79 (td, J=8.6, 4.5 Hz, 1H), 6.75 (t, J=5.4 Hz, 1H), 6.99 (t, J=7.9 Hz, 1H), 12.4 (bs, 1H).

reactant | l-lysine | 13.76 mmol, 2.012 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | di-tert-butyl dicarbonate | 33.0 mmol, 7.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 mL | CO | CH4O
product | (S)-2,6-Bis-tert-butoxycarbonylamino-hexanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCNC(=O)OC(C)(C)C | C16H30N2O6
